US06344449B1
b) 1-(1,1-dimethylethoxycarbonyl)-4-(4-piperidinyl)piperazine
Prepared analogously to Example A3f) from 1-(1,1-dimethylethoxycarbonyl)-4-[1-(phenylmethyl)-4-piperidinyl]piperazine by hydrogenolysis, but using Pearlman's catalyst instead of palladium/charcoal, in a yield of 79.7% of theory.

reactant | 1-(1,1-dimethylethoxycarbonyl)-4-[1-(phenylmethyl)-4-piperidinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1CCN(CC1)CC1=CC=CC=C1)C | C21H33N3O2
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
product | 1-(1,1-dimethylethoxycarbonyl)-4-(4-piperidinyl)piperazine | yield of 79.7% | CC(C)(OC(=O)N1CCN(CC1)C1CCNCC1)C | C14H27N3O2
